US05684017
2-(4-hydroxybenzoyl)-4-benzenesulfonylimino-4H-chromene
Combine 2-(4-methoxybenzoyl)-4-benzenesulfonylimino-4H-chromene (1 mmol) and sodium thioethoxide (2 mmol) in dimethylformamide (5 mL). Stir for 48 hours. Dilute the reaction mixture with water and dichloromethane. Separate the organic layer, dry over MgSO4, filter, and evaporate in vacuo. Chromatograph on silica gel to give the title compound.

reactant | 2-(4-methoxybenzoyl)-4-benzenesulfonylimino-4H-chromene | 1 mmol | COC1=CC=C(C(=O)C=2OC3=CC=CC=C3C(C2)=NS(=O)(=O)C2=CC=CC=C2)C=C1 | C23H17NO5S
reactant | sodium thioethoxide | 2 mmol | [S-]CC.[Na+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4-hydroxybenzoyl)-4-benzenesulfonylimino-4H-chromene | OC1=CC=C(C(=O)C=2OC3=CC=CC=C3C(C2)=NS(=O)(=O)C2=CC=CC=C2)C=C1 | C22H15NO5S
